US04609650
16β-Ethyl-17β-benzoyloxyacetoxy-4-estren-3-one
In 30 ml of acetone is dissolved 0.49 g of benzoic acid, and 2 ml of 2 N-NaOH and 5 ml of water are added, followed by addition of 0.88 g of 16β-ethyl-17β-bromoacetoxy-4-estren-3-one. The mixture is refluxed for 3 hours. After cooling, the solvent is distilled off under reduced pressure and the residue is extracted with 100 ml of ethyl acetate. The organic layer is separated, washed with water and saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent is then distilled off under reduced pressure and the residue is chromatographed on a silica gel column. After passage of 350 ml of diisopropyl ether, the solvent is distilled off under reduced pressure. To the residue is added a small amount of diisopropyl ether, followed by filtration to give 0.86 g of the above-identified compound as a white powder.

reactant | benzoic acid | 0.49 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | NaOH | [OH-].[Na+]
reactant | water | 5 ml | O | H2O
reactant | 16β-ethyl-17β-bromoacetoxy-4-estren-3-one | 0.88 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(CBr)=O | C22H31BrO3
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 16β-Ethyl-17β-benzoyloxyacetoxy-4-estren-3-one | 0.86 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(COC(C2=CC=CC=C2)=O)=O | C29H36O5
